US04752326
Preparation of 1-(2-fluoro-4-chloro-5-methylsulfonyloxyphenyl)-3,5-dimethyl-4-nitropyrazole (Compound No. 52) (Process E)
To 1-(2-fluoro-4-chloro-5-methylsulfonyloxyphenyl)-3,5-dimethylpyrazole (31.9 g) was added 95% sulfuric acid (35 ml) and then added dropwise an acid mixture of 95% sulfuric acid (7.5 ml) and 61% nitric acid (10.3 g) under cooling with iced water, and the reaction mixture was stirred at room temperature for further one hour, and was then poured into iced water. The reaction mixture was extracted with toluene and the resulting toluene layer was washed with 1N aqueous sodium hydroxide solution and then with water and dried over anhydrous sodium sulfate. Removal of the solvent from.the extract in toluene by distillation in vacuo gave the titled compound (33.1 g) as a yellowish brown crystalline solid. Recrystallization of the solid from a mixture of cyclohexane/acetone yielded a pale yellow crystalline solid. m.p. 150.5°-152.5° C.

reactant | 1-(2-fluoro-4-chloro-5-methylsulfonyloxyphenyl)-3,5-dimethylpyrazole | 31.9 g | FC1=C(C=C(C(=C1)Cl)OS(=O)(=O)C)N1N=C(C=C1C)C | C12H12ClFN2O3S
reactant | sulfuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 7.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 10.3 g | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 1-(2-fluoro-4-chloro-5-methylsulfonyloxyphenyl)-3,5-dimethyl-4-nitropyrazole | 33.1 g | FC1=C(C=C(C(=C1)Cl)OS(=O)(=O)C)N1N=C(C(=C1C)[N+](=O)[O-])C | C12H11ClFN3O5S
